US08357693B2
To a suspension of tert-butyl 5-(2-(3-(2-chloroacetamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate (1.0 g, 1.89 mmol) in DMF:THF (3 mL:4 mL) was added morpholine (1.8 mL, 20.6 mmol). The reaction mixture was stirred at RT for 2.5 h. The reaction mixture was concentrated in vacuo to remove volatiles. The residue was poured into ice-water and the resulting white solid was filtered and dried for several hours under high vacuum. The crude product re-crystallized using absolute EtOH to afford tert-butyl 5-(2-(3-(2-morpholinoacetamido)-phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (830 mg, 75%)

reactant | tert-butyl 5-(2-(3-(2-chloroacetamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 1.89 mmol, 1.0 g | ClCC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C28H25ClN6O3
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | morpholine | 20.6 mmol, 1.8 mL | N1CCOCC1 | C4H9NO
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 5-(2-(3-(2-morpholinoacetamido)-phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | O1CCN(CC1)CC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C32H33N7O4
